US20010006969A1
2,4-Diallylamino-6-chloroquinazoline
In 1 ml of 1,3-dimethyl-2-imidazolidinone was dissolved 300 mg (1.18 mmol) of 4-allylamino-2,6-dichloroquinazoline, and after 110 mg (1.87 mmol) of allylamine was added to the resulting solution, the mixture was stirred in a sealed tube at 100° C. for 10 hours. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 283 mg (yield: 87.3%) of the title compound.

reactant | 4-allylamino-2,6-dichloroquinazoline | 1.18 mmol, 300 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)Cl)Cl | C11H9Cl2N3
reactant | allylamine | 1.87 mmol, 110 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,3-dimethyl-2-imidazolidinone | 1 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 2,4-Diallylamino-6-chloroquinazoline | 283 mg, yield: 87.3% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCC=C)Cl | C14H15ClN4
